US07091220B2
7-Ethyl-3-[(2-methoxyphenyl)-morpholin-4-yl-methyl]-1H-indole
The preparation was carried out in accordance with general synthesis instructions 4 from 7-ethyl-1H-indole and 4-(2-methoxy-benzylidene)-morpholin-4-ium chloride.

reactant | 7-ethyl-1H-indole | C(C)C=1C=CC=C2C=CNC12 | C10H11N
reactant | 4-(2-methoxy-benzylidene)-morpholin-4-ium chloride | [Cl-].COC1=C(C=[N+]2CCOCC2)C=CC=C1
product | 7-Ethyl-3-[(2-methoxyphenyl)-morpholin-4-yl-methyl]-1H-indole | C(C)C=1C=CC=C2C(=CNC12)C(N1CCOCC1)C1=C(C=CC=C1)OC | C22H26N2O2
